US04367233
α-[(5-Chlorothiazolo[5,4-b]pyridin-2-yl)thio]α-phenyl acetic acid
A methylene chloride solution of 4.05 g (0.02 m) 5-chloro-2-mercaptothiazolo[5,4-b]pyridine, 4.30 g (0.02 m) α-bromophenylacetic acid and 4.0 g (0.04 m) triethylamine is heated to gentle reflux overnight. The methylene chloride solution is extracted twice with a dilute hydrochloric acid solution and once with water and then dried over anhydrous MgSO4. After the solvent is removed, the residual solid is recrystallized from acetonitrile. 5.0 g (74% yield) of title compound, melting at 175°-7° C., is obtained.

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 5-chloro-2-mercaptothiazolo[5,4-b]pyridine | 4.05 g | ClC1=CC=C2C(=N1)SC(=N2)S | C6H3ClN2S2
reactant | α-bromophenylacetic acid | 4.30 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
solvent | triethylamine | 4.0 g | C(C)N(CC)CC | C6H15N
product | α-[(5-Chlorothiazolo[5,4-b]pyridin-2-yl)thio]α-phenyl acetic acid | 5.0 g, 74% yield | ClC1=CC=C2C(=N1)SC(=N2)SC(C(=O)O)C2=CC=CC=C2 | C14H9ClN2O2S2
